US08633319B2
Preparation of 1,1-dimethylethyl (3S)-3-fluoro-3-({[(trifluoromethyl)sulfonyl]oxy}methyl)-1-piperidinecarboxylate
1,1-Dimethylethyl (3S)-3-fluoro-3-(hydroxymethyl)-1-piperidinecarboxylate (1 wt) in pyridine (3 vol) is dissolved at 20° C. under a nitrogen atmosphere. The resulting solution is cooled to −10° C., then triflic anhydride (0.80 vol) is added at such a rate as to maintain the internal temperature below 5° C. The reaction mixture is stirred at −10° C. for 4 h, then monitored for completion by TLC. The batch is warmed to 0° C., isopropyl acetate (8 vol) is added, followed by a solution of aqueous citric acid (5.8 wt citric acid in 5.8 vol of water). The mixture is stirred at 20° C. for 15 min, then the layers are separated. The organic layer is washed sequentially at 20° C. with another solution of aqueous citric acid (5.8 wt citric acid in 5.8 vol of water), followed by aqueous sodium bicarbonate solution (0.35 wt NaHCO3 in water 4.65 vol) and water (5 vol). The organic phase is evaporated to dryness on a rotary evaporator to give the title compound as an orange oil.

reactant | 1,1-Dimethylethyl (3S)-3-fluoro-3-(hydroxymethyl)-1-piperidinecarboxylate | F[C@@]1(CN(CCC1)C(=O)OC(C)(C)C)CO | C11H20FNO3
reactant | triflic anhydride | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | isopropyl acetate | C(C)(=O)OC(C)C | C5H10O2
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 1,1-dimethylethyl (3S)-3-fluoro-3-({[(trifluoromethyl)sulfonyl]oxy}methyl)-1-piperidinecarboxylate | F[C@@]1(CN(CCC1)C(=O)OC(C)(C)C)COS(=O)(=O)C(F)(F)F | C12H19F4NO5S
